US04594430
A solution of 1.0 g (25 mmoles) of sodium hydroxide in 10 mL of water was treated with 2.0 g (16.8 mmoles) of 2-nitropropyl methyl ether. After 10 minutes, 10 mL of methylene chloride was added, followed by a solution of 5.0 g (72 mmoles) of sodium nitrite in 10 mL of water. Next, a solution of 1.0 g (3 mmoles) of potassium ferricyanide in 5 mL of water was added, followed by 4.4 g (18 mmoles) of solid sodium persulfate. A cold water bath was used to moderate exothermic reaction. After 30 minutes, the reaction mixture was extracted with two 15 mL portions of methylene chloride. The combined extracts were washed with brine and dried over anhydrous magnesium sulfate. The solution was distilled in a short-path distillation apparatus to give 2.43 g (88% yield) of 2,2-dinitropropyl methyl ether, a colorless liquid, b.p. 100° (16 mm). 'H NMR (CDCl3): &2.18 (s. 3 H, --CH3), 3.35 (s, 3 H, --OCH3), 4.15 (s, 2H, --CH2O).

reactant | sodium hydroxide | 25 mmoles, 1.0 g | [OH-].[Na+]
reactant | 2-nitropropyl methyl ether | 16.8 mmoles, 2.0 g | COCC(C)[N+](=O)[O-] | C4H9NO3
reactant | sodium nitrite | 72 mmoles, 5.0 g | N(=O)[O-].[Na+]
reactant | sodium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 10 mL | O | H2O
solvent | water | 10 mL | O | H2O
solvent | water | 5 mL | O | H2O
catalyst | potassium ferricyanide | 3 mmoles, 1.0 g | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dinitropropyl methyl ether | 2.43 g, 88% yield | COCC(C)([N+](=O)[O-])[N+](=O)[O-] | C4H8N2O5
